* vertical_40fF
* Identical 45 nm CMOS driver/receiver; only interconnect R/C varies.
.include model.pm

.param VDDVAL=1.0
.param RLINK=0.065
.param CLINK=40.0f

VDD vdd 0 DC {VDDVAL}
VIN in 0 PULSE(0 {VDDVAL} 100p 20p 20p 480p 1n)

* Output driver: Wp/Wn = 2, sized 8/4 um.
MDRV_N link_src in 0 0 nmos L=45n W=4u
MDRV_P link_src in vdd vdd pmos L=45n W=8u

* Lumped link proxy.
RLINK_ELEM link_src link {RLINK}
CLINK_ELEM link 0 {CLINK}

* Identical minimum-sized receiver with a transistor-level fanout-of-one load.
MREC_N out link 0 0 nmos L=45n W=1u
MREC_P out link vdd vdd pmos L=45n W=2u
MLOAD_N out_load out 0 0 nmos L=45n W=1u
MLOAD_P out_load out vdd vdd pmos L=45n W=2u

.option temp=27 tnom=27 reltol=1e-4 abstol=1e-15 vntol=1e-6
.tran 1p 3.1n

* One steady-state 1 ns period contains one rising and one falling data toggle.
.measure tran supply_charge_cycle INTEG I(VDD) FROM=1.05n TO=2.05n
.measure tran propagation_rise TRIG V(in) VAL=0.5 RISE=2 TARG V(out) VAL=0.5 RISE=2
.measure tran propagation_fall TRIG V(in) VAL=0.5 FALL=2 TARG V(out) VAL=0.5 FALL=2
.measure tran link_fall_time TRIG V(link) VAL=0.9 FALL=2 TARG V(link) VAL=0.1 FALL=2
.measure tran link_rise_time TRIG V(link) VAL=0.1 RISE=2 TARG V(link) VAL=0.9 RISE=2

.control
set filetype=ascii
run
wrdata waveform.txt time v(in) v(link) v(out) i(VDD)
quit
.endc

.end
